US08168634B2
(2S)-2-Amino-3-(1H-indol-3-yl)propan-1-ol
To a stirred solution of (S)-tryptophan (4.0 g, 20.0 mmol) in THF (100 mL) at 0° C. was slowly added BH3.Me2S complex (5.9 mL, 10M solution in THF, 59.0 mmol). The reaction mixture was heated to 70° C. for 16 h and, after cooling, the excess borane was quenched by the addition of MeOH (10 mL) at 0° C. The reaction mixture was then concentrated in vacuo and the resultant white solid was dissolved in EtOAc (100 mL) and washed with aqueous NaOH solution (20% w/v, 2×70 mL). The organic fraction was then extracted into aqueous 2M HCl (2×100 mL). The combined acidic aqueous fractions were basified to pH 14 (addition of solid NaOH) and were re-extracted with EtOAc (2×150 mL). The combined organic fractions were washed with brine (70 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (3.5 g, 92%) as a white solid that was used without further purification. δH (CD3OD) 7.46 (1H, d, J 7.9 Hz), 7.21 (1H, d, J 8.0 Hz), 6.96 (3H, m), 3.79 (1H, dd, J 11.3 Hz and J 3.6 Hz), 3.54 (1H, dd, J 11.2 Hz and J 6.2 Hz), 3.05 (1H, m), 2.80 (1H, m), 2.61 (1H, m). Exchangeable protons were not observed.

reactant | (S)-tryptophan | 20.0 mmol, 4.0 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | Me2S | 59.0 mmol, 10M, 5.9 mL | S(C)C | C2H6S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2S)-2-Amino-3-(1H-indol-3-yl)propan-1-ol | 3.5 g, 92% | N[C@H](CO)CC1=CNC2=CC=CC=C12 | C11H14N2O
